Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / omeprazole / Coumadin / Cephalexin / Niferex / 
simvastatin / pravastatin / Rosiglitazone / metoprolol / 
atorvastatin / yellow dye
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
___ transferred from ___ for cardiac
catheterization following an admission for acute on chronic
systolic heart failure after presenting with respiratory failure
on ___. She was intubated for one day and managed with Lasix
and Nitro drips which were subsequently weaned. 
   Her pertinent medical history includes CAD, Ischemic
cardiomyopathy, CHF with EF previously 55%, now 20%,
Hypertension, Hyperlipidemia, Type II DM & Chronic kidney
disease. 
   During her hospitalization at ___ she underwent a Nuclear
stress showing moderate lateral wall abnormalities and is now
referred for cath. 
   Of note, she reports having had a cardiac catheterization 
done
in ___ (while visiting) in ___ of this year with no
intervention. She has history of prior RCA and LAD PCIs. 
 
Past Medical History:
1. Hypertension
2. Hyperlipidemia
3. CAD s/p inferior MI in ___ with RCA stenting at ___. Repeat
catheterization on ___ at ___ revealing an 80% mid LAD
stenosis s/p 3.0 x 12mm Taxus stenting, RCA with ISR s/p 2.5 x
12mm and 2.5 x 16 mm Taxus stents to the mid vessel.
4. Diabetes, on insulin 
5. GERD
6. Obesity
 
Social History:
___
Family History:
No hx of MIs.  
 
Physical Exam:
On admission:
Physical Examination: BP 146/72, HR 75, RR 16, O2 100% RA 
Gen: Alert, no acute distress 
Neuro: Oriented x 3
CV: Regular rate/rhythm 
Resp: LS clear bilaterally, breathing non-labored 
Abd: Soft, non-tender, +BS 
Extrem: BLE warm with no edema, ___ pulses intact 
.
On discharge:
Physical Exam: 
General: Alert, no acute distress 
Cardiovascular: Regular rate/rhythm
Respiratory: Lungs clear bilaterally, breathing non-labored
Abdomen: Soft, hyperactive bowel sounds no rebound or guarding 
no
tenderness to palpation
Extremities: BLE warm/well-perfused, ___ pulses, no ___ edema 
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate 
Access site: Right radial access site stable with no evidence of
bleeding or hematoma, distal sensation WNL, +radial pulse 

 
Pertinent Results:
On admission:

___ 07:35AM BLOOD WBC-5.5 RBC-3.27* Hgb-9.7* Hct-30.2* 
MCV-92 MCH-29.7 MCHC-32.1 RDW-13.8 RDWSD-46.4* Plt ___
___ 07:35AM BLOOD Glucose-194* UreaN-38* Creat-2.0* Na-142 
K-4.5 Cl-103 HCO3-21* AnGap-18
___ 07:35AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.7*
.
Coronary angiogram ___:
Coronary Description
The coronary circulation is co dominant.
LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the
Left Anterior Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a large caliber vessel. There is
a stent in the proximal and mid segments. There is a 70% 
stenosis in the distal segment. There is a 100%
stenosis in the distal segment.
The ___ Septal Perforator, arising from the proximal segment, is 
a small caliber vessel.
The ___ Septal Perforator, arising from the distal segment, is a 
medium caliber vessel. Collaterals from
the distal segment of the LAD connect to the proximal segment.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. There is a 46% stenosis
in the proximal segment. There is a 46% stenosis in the mid and 
distal segments.
The Left Posterolateral Artery, arising from the distal segment, 
is a medium caliber vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. There is a stent
in the proximal, mid, and distal segments. There is a 46% 
stenosis in the distal segment.
The SinoAtrial, arising from the proximal segment, is a small 
caliber vessel.
The Right Posterior Descending Artery, arising from the distal 
segment, is a medium caliber vessel.
Recommendations
• med rxLVEDP slightly elevated
.
CXR ___:
IMPRESSION:  
  
No previous images.  In there is substantial enlargement of the 
cardiac 
silhouette in a patient with hyperexpansion of the lungs and 
flattening 
hemidiaphragms consistent with chronic pulmonary disease.  No 
evidence of 
vascular congestion.  There is blunting of the left costophrenic 
angle with 
poor definition of the hemidiaphragm on the frontal view, 
suggesting small 
effusion with atelectatic changes. 
No evidence of acute focal consolidation at this time. 

On Discharge:

___ 08:35AM BLOOD UreaN-39* Creat-2.4* Na-141 K-4.6 Cl-102 
HCO3-26 AnGap-___ year old ___ speaking woman with h/o HTN, HLD, 
DMII, CKD (baseline creatinine 1.8-2.0) and HFpEF (EF 55% per 
TTE done in ___ presented to ___ with progressive 
dyspnea and respiratory failure requiring intubation for 
pulmonary edema. Workup revealed newly reduced EF 25%. Nuclear 
showed moderate lateral wall ischemia, 37% EF. She was referred 
for coronary angiography for evaluation of CAD.

# Acute on chronic systolic HF, EF 20%:s/p Hypoxic Hypercarbic 
Respiratory Failure, Intubated ___, extubated ___. Lasix gtt @ 
OSH, then off diuretics x ___ days. Appears euvolemic on exam 
today. 
 - Decrease Torsemide to 20mg daily 
 - Continue Coreg 12.5mg BID and losartan
 - Daily weights; heart failure teaching ongoing 

# Coronary Artery Disease: patent stents on cath 
- Continue Aspirin, Plavix 
- Continue Coreg
- Risk factor modification

 #GERD/Nausea/Constipation: Last BM ___ days PTA, patient is on 
pantoprazole at home and heartburn relieved with Maalox. Had 2 
BMs yesterday. Started on ranitidine at bedtime with relief in 
GERD symptoms.
-Continue ranitidine at bedtime
-Continue pantoprazole and prune juice
-Maalox as needed
-Suppository, senna and Colace for constipation
-Increase activity

 # Diabetes II: takes Lantus 30 U SC BID with 15 units Humalog 
before meals. Patient has not been on this Humalog dosing and is 
just getting sliding scale. Humalog decreased to 5 units each 
meals due to decreased intake. Fingersticks 113-210.
- Continue home dose Lantus 
- Resume home dose Humalog after discharge

 # CKD: baseline Cr 1.7-2.0. Peaked at 2.8 on ___ @ ___. 
Was 2.4 today
- Renal dose medications as appropriate 
- Renal function tests for ___: results to be 
faxed to PCP and cardiologist (scheduled appt. ___ with Dr. 
___

 # Hypertension: stable
- Continue Coreg and losartan

 # Hyperlipidemia 
- Continue Crestor 40mg daily 

 # PROPHYLAXIS: 
 - Bowel regimen with: Senna/Miralax PRN 

 # Emergency contact: ___, daughter ___ 

 # Code status: Full 

 # DISPO: Home with ___ services

 # Transitional issues: Daughter sorts daily medications for 
patient, regimen should be discussed with patient and daughter. 

** Plan reviewed with Dr. ___ and daughter, ___ 
who are both in agreement with discharge plan. All questions 
answered to patient's satisfaction. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Gabapentin 100 mg PO TID 
4. Rosuvastatin Calcium 40 mg PO QPM 
5. Torsemide 40 mg PO DAILY 
6. Clopidogrel 75 mg PO DAILY 
7. Loratadine 10 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Carvedilol 12.5 mg PO BID 
10. Losartan Potassium 25 mg PO DAILY 
11. Glargine 30 Units Breakfast
Glargine 30 Units Dinner
12. Allopurinol ___ mg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 150 mg PO QHS  
2.  Torsemide 20 mg PO DAILY  
3.  Allopurinol ___ mg PO DAILY  
4.  Aspirin 81 mg PO DAILY  
5.  Carvedilol 12.5 mg PO BID  
6.  Clopidogrel 75 mg PO DAILY  
7.  Ezetimibe 10 mg PO DAILY  
8.  Gabapentin 100 mg PO TID  
9.  Glargine 30 Units Breakfast
Glargine 30 Units Dinner
Humalog 15 Units Breakfast
Humalog 15 Units Lunch
Humalog 15 Units Dinner 
10.  Loratadine 10 mg PO DAILY  
11.  Losartan Potassium 25 mg PO DAILY  
12.  Pantoprazole 40 mg PO Q24H  
13.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
CAD
Acute on chronic systolic heart failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Physical Exam: 
Weight: 92.35 kg (203.6 lbs)
Vitals: 128-159/69-89, HR 63-81, Sats 98-99% RA
General: Alert, no acute distress 
Cardiovascular: Regular rate/rhythm
Respiratory: Lungs clear bilaterally, breathing non-labored
Abdomen: Soft, hyperactive bowel sounds no rebound or guarding 
no tenderness to palpation
Extremities: BLE warm/well-perfused, ___ pulses, no ___ edema 
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate 
Access site: Right radial access site stable with no evidence of 
bleeding or hematoma, distal sensation WNL, +radial pulse

___ year old ___ speaking woman with h/o HTN, HLD, 
DMII, CKD (baseline creatinine 1.8-2.0) and HFpEF (EF 55% per 
TTE done in ___ presented to ___ with progressive 
dyspnea and respiratory failure requiring intubation for 
pulmonary edema. Workup revealed newly reduced EF 25%. Nuclear 
showed moderate lateral wall ischemia, 37% EF. She was referred 
for coronary angiography for evaluation of CAD.

# Acute on chronic systolic HF, EF 20%:s/p Hypoxic Hypercarbic 
Respiratory Failure, Intubated ___, extubated ___. Lasix gtt @ 
OSH, then off diuretics x ___ days. Appears euvolemic on exam 
today. 
 -Torsemide 20mg daily  
 - Continue Coreg 12.5mg BID and losartan

# Coronary Artery Disease: patent stents on cath 
- Continue Aspirin, Plavix 
- Continue Coreg

 #GERD/Nausea/Constipation: Last BM ___ days ago, patient is on 
pantoprazole at home and heartburn relieved with Maalox. Had 2 
BMs yesterday. Started on ranitidine at bedtime with relief in 
GERD symptoms.
-Continue ranitidine at bedtime
-Continue pantoprazole and prune juice
-Maalox as needed
-Suppository, senna and Colace for constipation
-Increase activity

 # Diabetes II: takes Lantus 30 U SC BID with 15 units Humalog 
before meals.  Patient has not been on this Humalog dosing and 
is just getting sliding scale. Humalog decreased to 5 units each 
meals due to decreased intake.   Fingersticks 113-210.
- Continue home dose Lantus 
- Resume home dose Humalog after discharge

 # CKD: baseline Cr 1.7-2.0. Peaked at 2.8 on ___ @ ___. 
Was 2.4 today
- Renal dose medications as appropriate 

 # Hypertension: stable
- Continue Coreg and losartan

 # Hyperlipidemia 
- Continue Crestor 40mg daily 
 
 # PROPHYLAXIS:   
 - Bowel regimen with: Senna/Miralax PRN 
  
 # Emergency contact: ___, daughter ___  

 # Code status: Full   
  
 # DISPO: Home with ___ services
   
 # Transitional issues: Daughter sorts daily medications for 
patient, regimen should be discussed with patient and daughter. 

 
Discharge Instructions:
 You were transferred from ___ to ___ to have a 
cardiac catheterization. This was done because you had an 
abnormal stress test at ___, and also an ultrasound of 
your heart showed that the pumping function  (called "Ejection 
Fraction (EF)") was significantly decreased (your EF is 20%, 
normal is 55% or greater). Your prior stents were still patent 
without issues. You had some mild to moderate blockages in a few 
of your coronary arteries, but they did not require a stent. The 
pressure in your heart while it relaxes was slightly elevated.

 Instructions regarding care of the access site in your wrist 
are included with your discharge information.  

 Please continue your current medications with the following 
changes:  
 - Decrease torsemide to 20 mg daily

Weight at discharge is: 203.6 pounds. 
We are sending you home with ___ services.
If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 Your ___ Cardiac Care Team  
 You were transferred from ___ to ___ to have a 
cardiac catheterization. This was done because you had an 
abnormal stress test at ___, and also an ultrasound of 
your heart showed that the pumping function  (called "Ejection 
Fraction (EF)") was significantly decreased (your EF is 20%, 
normal is 55% or greater). Your prior stents were still patent 
without blockages. You had some mild to moderate blockages in a 
few of your coronary arteries, but they did not require 
intervention. 

 Instructions regarding care of the access site in your wrist 
are included with your discharge information.  

 Please continue your current medications with the following 
changes:  
 - Decrease torsemide to 20 mg daily (A new prescription was 
provided for lower dose.)
 - Start raniditine 150mg every evening. This is an additional 
medication to treat your GERD/reflux/heartburn. A prescription 
was provided. (Though this is an "over the counter" medication 
which can also be purchased at your local pharmacy.)

You should weight yourself daily, If your weight goes up 3 lbs. 
in one day or 5 lbs in one week, please call your cardiologist. 
****Weight at discharge is: 203.6 pounds. 

We are sending you home with ___ services. You were seen by 
physical therapy who recommended a rolling walker. A 
prescription was provided for this. You will continue physical 
therapy per ___. 

You need your renal function labs drawn on ___. A written 
order/requisition was provided. The results will be faxed to 
your PCP and cardiologist.  

If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 Your ___ Cardiac Care Team  
 
Followup Instructions:
___